### PR TITLE
[Merged by Bors] - feat: add Nat.maxPowDiv

### PR DESCRIPTION
**Pull request by mattrobball**
Adds tail recursive definition of maximal `k` such that `p^k | n` for `p, n : Nat` and `csimp` theorem relating it to `Nat.padicValNat`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 1]
```diff
@@ -95,6 +97,37 @@ theorem eq_zero_of_not_dvd {n : ℕ} (h : ¬p ∣ n) : padicValNat p n = 0 :=
...
+  simp
+
+theorem maxPowDiv_eq_multiplicity_get {p n : ℕ} (hp : 1 < p) (hn : 0 < n) (h : Finite p n) :
+    p.maxPowDiv n = (multiplicity p n).get h := by
+  rw [PartENat.get_eq_iff_eq_coe.mpr]
+  apply maxPowDiv_eq_multiplicity hp hn|>.symm
+
+/-- Allows for more efficient code for `padicValNat` -/
+@[csimp]
+theorem padicValNat_eq_maxPowDiv : @padicValNat = @maxPowDiv := by
```
Comment (semorrison) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:116]: Perhaps add a file under `test/` that evaluates `padicValNat`, as a witness that this `@[csimp]` is doing its job? (Only because this is relatively new to be doing this in mathlib, we don't need this for every csimp we introduce once we have confidence.)

Comment (mattrobball) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:116]: I've added a test which evaluates `padicValNat 2 (2^100000)`. In core, they are a bit smarter. They [print the generated IR to stdout](https://github.com/leanprover/lean4/blob/bff612e59e4860bef5180db08356ab5f256bea86/tests/lean/csimpAttr.lean#L15) and then check the correct declaration appears. It would nice to do this completely in Lean.

**Comment by semorrison** [comment]
bors merge
